US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-(4-methanesulfonylmethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To the crude 3-tert-butoxycarbonyl-6-(4-bromomethyl-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine in anhydrous DMF (1 mL) under nitrogen, add with string sodium methanesulfinate (400 mg, 3.9 mmol), and continue stirring for 30 min at ambient temperature followed by 2 h at 40° C. Add water, extract three times with EtOAc, wash with brine, dry over anhydrous MgSO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (3:1) to give a clear oil that solidifies on standing to a white solid (118 mg, 61%).

reactant | 3-tert-butoxycarbonyl-6-(4-bromomethyl-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)CBr | C23H27BrClNO2S
reactant | sodium methanesulfinate | 3.9 mmol, 400 mg | CS(=O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-tert-Butoxycarbonyl-7-chloro-6-(4-methanesulfonylmethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)CS(=O)(=O)C | C24H30ClNO4S2
